US05399291
50 g of the 2,2,3,3,4,4-hexafluoro-5-ethoxypentanol prepared above was dissolved in 50 g of methylene chloride. The resulting solution was placed in a flask fitted with a magnetic stirrer, thermometer, and addition funnel. 22 g of triethylamine was added to the flask, causing a rise in internal temperature to 40° C. The flask was cooled to 5° C. in an ice bath, and then 61.5 g of trifluoromethanesulfonic anhydride was added slowly so that the temperature did not exceed 10° C. The reaction mixture was allowed to stir overnight with warming to room temperature. 50 ml of water and 25 ml of methylene chloride were added, then the mixture was mixed and allowed to phase split. The resulting lower product phase was then washed sequentially with 50 ml of 3.5% aqueous hydrochloric acid and 20 ml of deionized water. The methylene chloride was then stripped off at atmospheric pressure. The residue was distilled at a head temperature of 69°-74° C. at 1.5 mm Hg (1.5 torr) pressure. A total of 62 g of 2,2,3,3,4,4-hexafluoro-5-ethoxypentyl trifluoromethanesulfonate was obtained.

reactant | 2,2,3,3,4,4-hexafluoro-5-ethoxypentanol | 50 g | FC(CO)(C(C(COCC)(F)F)(F)F)F | C7H10F6O2
reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 61.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 50 g | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2,2,3,3,4,4-hexafluoro-5-ethoxypentyl trifluoromethanesulfonate | 62 g | FC(S(=O)(=O)OCC(C(C(COCC)(F)F)(F)F)(F)F)(F)F | C8H9F9O4S
